US08193357B2
(±)-9-Chloro-2-(4-methoxy-phenyl)-1-methyl-3-(2,2,2-trifluoroethyl)-1,2,3,6-tetrahydro-pyrrolo[3,2-f]quinolin-7-one (Compound 148, Structure 5 of Scheme I, where RA=chloro, R1=methyl, R3=4-methoxy-phenyl. R5=2,2,2-trifluoroethyl)
This compound was prepared using the method described in Example 23 from 9-Chloro-2-(4-methoxy-phenyl)-1-methyl-3,6-dihydro-pyrrolo[3,2-f]quinolin-7-one, and trifluoroacetic acid. Spectral data for compound 148: 1H NMR (500 MHz, acetone-d6) δ 7.48 (d, J=8.7 Hz, 2H), 7.42 (d, J=8.8 Hz, 1H), 7.33 (d, J=8.8 Hz, 1H), 7.06 (d, J=8.7 Hz, 2H), 6.74 (s, 1H), 5.01 (d, J=8.1 Hz, 1H), 4.29 (m, 1H), 4.15 (dq, J=16.3, 10.0 Hz, 1H), 3.88 (s, 3H), 3.73 (dq, J=16.3, 9.3 Hz, 1H), 0.92 (d, J=7.2 Hz, 3H).

reactant | 9-Chloro-2-(4-methoxy-phenyl)-1-methyl-3,6-dihydro-pyrrolo[3,2-f]quinolin-7-one | ClC1=CC(NC2=CC=C3C(=C12)C(=C(N3)C3=CC=C(C=C3)OC)C)=O | C19H15ClN2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-9-Chloro-2-(4-methoxy-phenyl)-1-methyl-3-(2,2,2-trifluoroethyl)-1,2,3,6-tetrahydro-pyrrolo[3,2-f]quinolin-7-one | ClC1=CC(NC2=CC=C3C(=C12)C(C(N3CC(F)(F)F)C3=CC=C(C=C3)OC)C)=O | C21H18ClF3N2O2
